US04355182
Preparation of triphenyl[(tetrahydro-5-methyl-furan-2-ylidene)methyl]phosphonium tetrafluoroborate
1.5 g of (5-hydroxy-2-oxopentyl)triphenylphosphorane was dissolved in 20 ml of methylene chloride under a nitrogen atmosphere, cooled in dry ice/acetone bath and 15 ml of triethyloxonium tetrafluoroborate as a 1 M solution in methylene chloride was added. The reaction mixture was stirred at about -78° C. for 0.5 hour and allowed to warm to room temperature over about 2 hours, decanted into ice water and stirred vigorously with the addition of an additional 30 ml of methylene chloride. The extraction was repeated twice, the extracts combined, dried over sodium sulfate, the solvent removed under nitrogen gas followed by warming to 40° C. for 2 hours at 0.5 mm. Crystallization from ethyl acetate gave 700 mg of the desired product, m.p. 118.5°-122.5° C.

reactant | (5-hydroxy-2-oxopentyl)triphenylphosphorane | 1.5 g | OCCCC(CP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H25O2P
reactant | triethyloxonium tetrafluoroborate | 15 ml | F[B-](F)(F)F.C(C)[O+](CC)CC
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | dry ice acetone | C(=O)=O.CC(=O)C
product | triphenyl[(tetrahydro-5-methyl-furan-2-ylidene)methyl]phosphonium tetrafluoroborate | 700 mg | F[B-](F)(F)F.C1(=CC=CC=C1)[P+](C=C1OC(CC1)C)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H24OP.BF4/c1-20-17-18-21(25-20)19-26(22-11-5-2-6-12-22,23-13-7-3-8-14-23)24-15-9-4-10-16-24;2-1(3,4)5/h2-16,19-20H,17-18H2,1H3;/q+1;-1
